US03975537
To a cooled, stirred solution of 10.8 g. (0.058 mol.) of 3-methyl-4-methoxybenzoic acid chloride and 9.4 g. (0.054 mol.) of 2-n-butylbenzofuran in 40 ml. of carbon disulfide was added dropwise over a 20 minute interval 28.2 g. (0.108 mol.) of stannic chloride. After addition, the reaction mixture was warmed to ambient temperature and stirred for two hours. The mixture was then poured onto 100 ml. of ice-water and stirred for one hour. The solvent was removed, the product extracted into chloroform and the extracts were washed with water, dried (Na2SO4) and concentrated in vacuo to give 2-n-butyl-3-(3'-methyl-4'-methoxybenzoyl)benzofuran.

reactant | 3-methyl-4-methoxybenzoic acid chloride | 0.058 mol | CC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO2
reactant | 2-n-butylbenzofuran | 0.054 mol | C(CCC)C=1OC2=C(C1)C=CC=C2 | C12H14O
solvent | carbon disulfide | C(=S)=S | CS2
product | 2-n-butyl-3-(3'-methyl-4'-methoxybenzoyl)benzofuran | C(CCC)C=1OC2=C(C1C(C1=CC(=C(C=C1)OC)C)=O)C=CC=C2 | C21H22O3
